US06743785B2
To a solution of 7-(2-hydroxyethyl)indole (2.86 g, 17.7 mmol) in 25 mL of dry dimethylformamide was added imidazole (2.54 g, 37.3 mmol) followed by triisopropylsilyl chloride (4.35 mL, 19.7 mmol) and the mixture stirred at room temperature under nitrogen for 3 hours. After diluting with hexanes (500 mL) the organic layer was washed with water (2×50 mL) and saturated aqueous sodium chloride (1×50 mL) and dried over magnesium sulfate. The mixture was filtered and concentrated under reduced pressure to provide 7-(2-(triisopropylsilyloxy)eth-1-yl)indole. This indole was reacted essentially as described in Preparation II to provide the title compound as a yellow solid.

reactant | 7-(2-hydroxyethyl)indole | 17.7 mmol, 2.86 g | OCCC=1C=CC=C2C=CNC12 | C10H11NO
reactant | imidazole | 37.3 mmol, 2.54 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 19.7 mmol, 4.35 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 7-(2-(triisopropylsilyloxy)eth-1-yl)indole | C(C)(C)[Si](OCCC=1C=CC=C2C=CNC12)(C(C)C)C(C)C | C19H31NOSi
